US05306827
Preparation of 2,3-Dibromo-1-(chloromethyl)-5-(p-chlorophenyl)-4-[(trifluoromethyl)sulfonyl]pyrrole
N-{{2,3-Dibromo-5-(p-chlorophenyl)-4-[(trifluoromethyl)sulfonyl]pyrrol-1-yl}methyl}acetamide (4.5 g, 0.00835 mol) is added to phosphoros oxychloride (15 mL). The reaction mixture is refluxed for 31/2 hours, poured into water, stirred overnight and filtered to obtain a solid. The solid is dissolved into methylene chloride and the solution is dried over anhydrous sodium sulfate and concentrated in vacuo to obtain the title product as a yellow solid (3.8 g, mp 153°-156° C.) which is identified by 1HNMR and 13CNMR spectral analyses.

reactant | N-{{2,3-Dibromo-5-(p-chlorophenyl)-4-[(trifluoromethyl)sulfonyl]pyrrol-1-yl}methyl}acetamide | 0.00835 mol, 4.5 g | BrC=1N(C(=C(C1Br)S(=O)(=O)C(F)(F)F)C1=CC=C(C=C1)Cl)CNC(C)=O | C14H10Br2ClF3N2O3S
reactant | oxychloride | 15 mL | O(Cl)Cl | Cl2O
reactant | water | O | H2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2,3-Dibromo-1-(chloromethyl)-5-(p-chlorophenyl)-4-[(trifluoromethyl)sulfonyl]pyrrole | 3.8 g | BrC=1N(C(=C(C1Br)S(=O)(=O)C(F)(F)F)C1=CC=C(C=C1)Cl)CCl | C12H6Br2Cl2F3NO2S
